US05981539
N-tert-Butoxycarbonyl-3,4-epoxypiperidine.
A mixture of N-tert-butoxycarbonyl-1,2,3,6-tetrahydropyrdine (23.6 g, 129 mmol), and m-chloroperbenzoic acid (46 g, 193 mmol) in dichloromethane (600 ml) at 0° C. was stirred and allowed to reach room temperature overnight. Washing with 5% aqueous sodium sulfite (700 ml), 3% aqueous sodium hydrogen carbonate (700 ml), 1 M aqueous sodium hydroxide (700 ml), and, finally, water (700 ml). Drying and evaporation was followed by purification by column chromatography on silica gel with 3% ethanol in dichloromethane. The title compound was obtained as a colorless oil. Yield 8.4 g, 33%.

reactant | N-tert-butoxycarbonyl-1,2,3,6-tetrahydropyrdine | 129 mmol, 23.6 g | C(C)(C)(C)OC(=O)N1CCC=CC1 | C10H17NO2
reactant | m-chloroperbenzoic acid | 193 mmol, 46 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | N-tert-Butoxycarbonyl-3,4-epoxypiperidine | C(C)(C)(C)OC(=O)N1CC2C(CC1)O2 | C10H17NO3
